US05378690
0.87 g (20 mmole) of sodium hydride (as a 55% w/w suspension in mineral oil) were suspended in 20 ml of tetrahydrofuran. 1.74 g (20 mmole) of morpholine and subsequently 1.85 g (20 mmole) of epichlorohydrin were then added, whilst ice-cooling, to this suspension, and the reaction mixture was allowed to stand at room temperature for 48 hours. At the end of this time, methylene chloride was added to the reaction mixture, and the organic layer was separated, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate, and concentrated by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (eluent: methylene chloride), to give 530 mg of 1-morpholino-2,3-epoxypropane.

reactant | sodium hydride | 20 mmole, 0.87 g | [H-].[Na+]
reactant | morpholine | 20 mmole, 1.74 g | N1CCOCC1 | C4H9NO
reactant | epichlorohydrin | 20 mmole, 1.85 g | C(Cl)C1CO1 | C3H5ClO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-morpholino-2,3-epoxypropane | 530 mg | O1CCN(CC1)CC1CO1 | C7H13NO2
